US09260414B2
((S)-1-{(S)-2-[4-(4′-Amino-2,2′-dimethyl-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester
Potassium carbonate (224 mg, 1.619 mmol) was added to a mixture of ((S)-1-{(S)-2-[4-(4-bromo-3-methyl-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (150 mg, 0.324 mmol) and 3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine (90.6 mg, 0.389 mmol) in toluene (0.6 mL, 6 mmol) and water (0.3 mL, 20 mmol). The reaction mixture was degassed and flushed with nitrogen. Tetrakis(triphenylphosphine)palladium(0) (44.9 mg, 0.039 mmol) was added under nitrogen and then the reaction mixture was capped and heated at 100° C. overnight, cooled to RT and partitioned between ethyl acetate (10 mL) and water (2 mL). The organic layer was dried over sodium sulfate, filtered and concentrated to give a brownish oil, which was purified by silica gel chromatography (12 g silica gel, 0-100% EtOAc/hexanes). Desired fractions were combined and concentrated to give the title compound as a light yellowish foam (135 mg, 85% yield). (m/z): [M+H]+ calcd for C28H35N5O3 490.27 found 490.6.

reactant | Potassium carbonate | 1.619 mmol, 224 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ((S)-1-{(S)-2-[4-(4-bromo-3-methyl-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.324 mmol, 150 mg | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC(=C(C=C1)Br)C)=O | C21H27BrN4O3
reactant | 3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine | 0.389 mmol, 90.6 mg | CC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)N | C13H20BNO2
reactant | toluene | 6 mmol, 0.6 mL | C1(=CC=CC=C1)C | C7H8
reactant | water | 20 mmol, 0.3 mL | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.039 mmol, 44.9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ((S)-1-{(S)-2-[4-(4′-Amino-2,2′-dimethyl-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC(=C(C=C1)C1=C(C=C(C=C1)N)C)C)=O | C28H35N5O3
